US07851474B2
Step 2. Preparation of 4-cyclopentyl-piperazine-1-carboxylic acid [1-(4-acetyl-phenyl)-piperidin-4-yl]-amide
To a suspension of sodium bicarbonate (40 mmol) in acetonitrile (50 mL) is added hydrochloride salt of 1-[4-(4-amino-piperidin-1-yl)-phenyl]-ethanone (10 mmol) and p-nitrophenyl chloroformate (10 mmol) at 0° C. The mixture is stirred at rt for 1 hour. A solution of 1-cyclopentylpiperazine (10.5 mmol) and TEA (25 mmol) in acetonitrile (15 mL) is added to the mixture at rt. The resulting mixture is stirred until no p-nitrophenoxyl carbamate remained by TLC. The mixture is then concentrated, diluted with EtOAc (100 mL) and washed with aqueous potassium carbonate (2×80 mL), and dried over MgSO4. Removal of the solvent, followed by PTLC purification gives the title compound. 1H NMR (300 MHz, CDCl3) δ 7.85 (d, 2H), 6.84 (d, 2H), 4.41 (d, 1H), 3.81-3.98 (m, 3H), 3.52-3.40 (m, 4H), 3.02 (t, 2H), 2.2.66-2.43 (m, 8H), 2.15-2.01 (m, 2H), 1.97-1.82 (m, 2H), 1.78-1.64 (m, 2H), 1.60-1.41 (m, 6H); LC-MS (M+1) 399.5.

reactant | sodium bicarbonate | 40 mmol | C([O-])(O)=O.[Na+]
reactant | 1-[4-(4-amino-piperidin-1-yl)-phenyl]-ethanone | 10 mmol | NC1CCN(CC1)C1=CC=C(C=C1)C(C)=O | C13H18N2O
reactant | p-nitrophenyl chloroformate | 10 mmol | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 1-cyclopentylpiperazine | 10.5 mmol | C1(CCCC1)N1CCNCC1 | C9H18N2
reactant | p-nitrophenoxyl carbamate | C(N)(OOC1=CC=C(C=C1)[N+](=O)[O-])=O | C7H6N2O5
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 4-cyclopentyl-piperazine-1-carboxylic acid [1-(4-acetyl-phenyl)-piperidin-4-yl]-amide | C(C)(=O)C1=CC=C(C=C1)N1CCC(CC1)NC(=O)N1CCN(CC1)C1CCCC1 | C23H34N4O2
